US03968226
To a solution of NaHCO3 (4.2 g., 0.05 mol.) in water (50 ml.) was added 7-ACA (6.8 g., 0.025 mol.), water (50 ml.) and acetone (25 ml.). The resulting solution was warmed to 45° and then a solution of 3,4-dimethyl-5-mercapto-1,2,4-triazole (5.0 g., 0.038 mol.) in acetone (50 ml.) and 5% NaHCO3 (10 ml.) was added. The reaction was refluxed until the reaction was completed as determined by the disappearance of the acetoxy carbonyl band in the infrared absorption spectrum. During this time the pH was maintained at ca. 7.6. The solution was cooled to 10° and adjusted to pH 3.5 with 3N HCl. The precipitated product was collected, washed with acetone, and dried to give a 60% yield of 3-(3,4-dimethyl-1,2,4-triazol-5-ylthiomethyl)-7-amino-3-cephem-4-carboxylic acid.

reactant | 7-ACA | 0.025 mol, 6.8 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 3,4-dimethyl-5-mercapto-1,2,4-triazole | 0.038 mol, 5.0 g | CC1=NN=C(N1C)S | C4H7N3S
reactant | HCl | 3N | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | water | 50 ml | O | H2O
solvent | NaHCO3 | 0.05 mol, 4.2 g | C(=O)(O)[O-].[Na+]
product | 3-(3,4-dimethyl-1,2,4-triazol-5-ylthiomethyl)-7-amino-3-cephem-4-carboxylic acid | 60% yield | CC1=NN=C(N1C)SCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C12H15N5O3S2
